US03997553
A solution of 5.0 parts of the salt of methyl cyanocarbamate with o-phenylenediamine and 1.5 parts of acetic acid in 25 parts of water is refluxed for 30 minutes. The solution is cooled to 50° C. and filtered. The product is washed with water and dried in vacuo at 95° C. This procedure gives 3.3 parts (72% yield) of 2-benzimidazolecarbamic acid, methyl ester.

reactant | methyl cyanocarbamate | C(#N)NC(OC)=O | C3H4N2O2
reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-benzimidazolecarbamic acid, methyl ester | 72% yield | N1=C(NC2=C1C=CC=C2)NC(=O)OC | C9H9N3O2
